US08097628B2
A suspension of (2S)-2-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione (42.6 g, 128 mmol) and Dowex 50X2-200 ion exchange resin (50 g, 128 mmol) in MeOH (1000 mL) was stirred at room temperature for 15 h. The reaction mixture was filtered to give (2S)-2-(hydroxymethyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione (26.55 g, 121 mmol, 95%).

reactant | (2S)-2-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione | 128 mmol, 42.6 g | CC(C)(C)[Si](OC[C@@H]1CN2C(C=CC=3N=CC(N1C23)=O)=O)(C)C | C16H23N3O3Si
solvent | MeOH | 1000 mL | CO | CH4O
product | (2S)-2-(hydroxymethyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione | 121 mmol, 26.55 g, 95% | OC[C@@H]1CN2C(C=CC=3N=CC(N1C23)=O)=O | C10H9N3O3
